US06686381B2
N-{5-[4-Methyl-5-(2-methyl-benzoyl)-thiazol-2-ylamino]-pentyl}-benzenesulfonamide
A solution of 18 mg (0.05 mmol) [2-(5-Amino-pentylamino)-4-methyl-thiazol-5-yl]-o-tolyl-methanone hydrochloride in 1 ml ethanol was treated with 10.6 mg (0.06 mmol) benzenesulfonylchloride and 21 ml NEt3. The mixture was allowed to stir for 15 h at room temperature and afterwards subjected to preparative HPLC separation on reversed phase eluting with an acetonitrile/water gradient. Evaporation of the product fractions yielded 12.6 mg (55%) of the title compound.

reactant | [2-(5-Amino-pentylamino)-4-methyl-thiazol-5-yl]-o-tolyl-methanone hydrochloride | 0.05 mmol, 18 mg | Cl.NCCCCCNC=1SC(=C(N1)C)C(=O)C1=C(C=CC=C1)C
reactant | benzenesulfonylchloride | 0.06 mmol, 10.6 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NEt3 | 21 ml | CCN(CC)CC | C6H15N
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | N-{5-[4-Methyl-5-(2-methyl-benzoyl)-thiazol-2-ylamino]-pentyl}-benzenesulfonamide | 12.6 mg, 55% | CC=1N=C(SC1C(C1=C(C=CC=C1)C)=O)NCCCCCNS(=O)(=O)C1=CC=CC=C1 | C23H27N3O3S2
